US07560558B2
Methyl 10-(2-hydroxy-5-methyl-phenyl)-10-oxo-decanoate (546 mg), 4-chloro-6,7-dimethoxyquinoline (397 mg), and 4-dimethylaminopyridine (434 mg) were suspended in o-dichlorobenzene (20 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using acetone-hexane to give methyl 10-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-10-oxo-decanoate (90 mg, yield 1.0%).

reactant | Methyl 10-(2-hydroxy-5-methyl-phenyl)-10-oxo-decanoate | 546 mg | OC1=C(C=C(C=C1)C)C(CCCCCCCCC(=O)OC)=O | C18H26O4
reactant | 4-chloro-6,7-dimethoxyquinoline | 397 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 434 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | methyl 10-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-10-oxo-decanoate | 90 mg, yield 1.0% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C(CCCCCCCCC(=O)OC)=O | C29H35NO6
